US06818652B2
A solution of 4-(diethoxyphosphorylmethyl)-benzoic acid methyl ester (0.25 g, 0.87 mmole) in 5 mL of THF at −20° C., was treated with 0.88 mL of 1M lithium bis(trimethylsilyl)amide solution in hexanes. The mixture was stirred at −20° C. for 20 minutes before a solution of 2-(4,4-dimethyl-chroman-7-yl)-heptanal (0.16 g, 0.58 mmole) in 5 mL of THF was added. The reaction mixture was stirred at −20° C. for 30 minutes, at room temperature for 6 hours, quenched by the addition of 10 mL of saturated aqueous ammonium chloride solution and extracted with three 10 mL portions of ethyl acetate. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo, to give a yellow oil. The product was purified by flash chromatography (SiO2, 10% ethyl acetate in hexanes) to yield 0.1 g of 4-[3-(4,4-dimethyl-chroman-7-yl)-oct-1-enyl]-benzoic acid methyl ester as a colorless oil.

reactant | 4-(diethoxyphosphorylmethyl)-benzoic acid methyl ester | 0.87 mmole, 0.25 g | COC(C1=CC=C(C=C1)CP(=O)(OCC)OCC)=O | C13H19O5P
reactant | lithium bis(trimethylsilyl)amide | 1M, 0.88 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(4,4-dimethyl-chroman-7-yl)-heptanal | 0.58 mmole, 0.16 g | CC1(CCOC2=CC(=CC=C12)C(C=O)CCCCC)C | C18H26O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[3-(4,4-dimethyl-chroman-7-yl)-oct-1-enyl]-benzoic acid methyl ester | 0.1 g | COC(C1=CC=C(C=C1)C=CC(CCCCC)C1=CC=C2C(CCOC2=C1)(C)C)=O | C27H34O3
